US06107329
(±)-5-Chloro-1H-indole-2-carboxylic acid [2-(3-cyano-phenyl)-1-(thiazolidine-3-carbonyl)-ethyl]-amide
From 5-chloro-1H-indole-2-carboxylic acid and (+)-2-amino-3-(3-cyano-phenyl)-1-thiazolidin-3-yl-propan-1-one. mp 183-184° C.

reactant | 5-chloro-1H-indole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | (+)-2-amino-3-(3-cyano-phenyl)-1-thiazolidin-3-yl-propan-1-one | NC(C(=O)N1CSCC1)CC1=CC(=CC=C1)C#N | C13H15N3OS
product | (±)-5-Chloro-1H-indole-2-carboxylic acid [2-(3-cyano-phenyl)-1-(thiazolidine-3-carbonyl)-ethyl]-amide | C(#N)C=1C=C(C=CC1)CC(C(=O)N1CSCC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C22H19ClN4O2S
